US08466114B2
To a stirred solution of 6-[2-bromo-5-((3R,4S,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-2-methoxy-tetrahydro-pyran-2-yl)-benzyl]-chroman (900 mg, 1.05 mmol) in acetonitrile:dichloromethane (1:1 mixture, 6 mL) was added triethylsilane (0.34 mL, 2.1 mmol) and boron trifluoride diethyletharate complex (0.19 mL, 1.58 mmol), at 0° C. After stirring for 2 h, the reaction was quenched with saturated aqueous sodium bicarbonate solution. The volatiles were evaporated under reduced pressure; the resulting mixture was extracted with ethyl acetate (2×10 mL). The organic layers were combined and dried over sodium sulfate then concentrated to a residue which was purified by silica gel column chromatography to furnish 6-[2-bromo-5-((3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-chroman (600 mg).

reactant | 6-[2-bromo-5-((3R,4S,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-2-methoxy-tetrahydro-pyran-2-yl)-benzyl]-chroman | 1.05 mmol, 900 mg | BrC1=C(CC=2C=C3CCCOC3=CC2)C=C(C=C1)C1(O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OC | C51H51BrO7
reactant | triethylsilane | 2.1 mmol, 0.34 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride | B(F)(F)F | BF3
solvent | acetonitrile dichloromethane | 6 mL | C(C)#N.ClCCl
product | 6-[2-bromo-5-((3S,4R,5R,6R)-3,4,5-tris-benzyloxy-6-benzyloxymethyl-tetrahydro-pyran-2-yl)-benzyl]-chroman | 600 mg | BrC1=C(CC=2C=C3CCCOC3=CC2)C=C(C=C1)C1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C50H49BrO6
